US09120812B2
Synthesis of 1-{4-[8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-6-(tetrahydropyran-4-yl)-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}-3-(1-methyl-1H-pyrazol-3-yl)urea
50 mg (83.4 μmol) of {4-[8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-6-(tetrahydropyran-4-yl)-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}carbamic acid phenyl ester are placed in a microwave reactor and 25 mg (26 μmol) of 1-methyl-1H-pyrazol-3-ylamine are added. 1 ml of DMF and 2 ml of THF are added. The reactor is heated in a Biotage microwave machine for 30 minutes at 100° C. 100 mg (100 μmol) of 1-methyl-1H-pyrazol-3-ylamine are added and the mixture is heated for 2 hours at 110° C. The solvents are evaporated off. The residue is chromatographed on silica gel, eluting with an MeOH/DCM mixture from (0/100 v/v) up to (5/95 v/v) to give a solid, which is then washed with water and dried. 23 mg of 1-{4-[8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-6-(tetrahydropyran-4-yl)-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}-3-(1-methyl-1H-pyrazol-3-yl)urea are recovered.

reactant | {4-[8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-6-(tetrahydropyran-4-yl)-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}carbamic acid phenyl ester | 83.4 μmol, 50 mg | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)C2CCOCC2)(C)C)N2CC1CCC(C2)O1)=O | C33H37N5O6
reactant | 1-methyl-1H-pyrazol-3-ylamine | 26 μmol, 25 mg | CN1N=C(C=C1)N | C4H7N3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 1-methyl-1H-pyrazol-3-ylamine | 100 μmol, 100 mg | CN1N=C(C=C1)N | C4H7N3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-{4-[8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-6-(tetrahydropyran-4-yl)-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}-3-(1-methyl-1H-pyrazol-3-yl)urea | CC1(CN(C(C2=C(O1)N=C(N=C2C2=CC=C(C=C2)NC(=O)NC2=NN(C=C2)C)N2CC1CCC(C2)O1)=O)C1CCOCC1)C | C31H38N8O5
